US06008229
To a mixture of 1-(2,4-dichloro-3-hydroxymethylphenyl)-2-[4-(methylcarbamoyl)cinnamoylaminomethyl]pyrrole (148 mg), triethylamine (0.11 ml) and anhydrous dimethylformamide (1 ml) was added a 1M solution of methanesulfonyl chloride in dimethylformamide (0.77 ml) under ice-water cooling. The mixture was stirred at ambient temperature for 4 hours and partitioned between chloroform and saturated aqueous solution of sodium hydrogen carbonate. The organic layer was isolated, dried over magnesium sulfate and evaporated in vacuo to give a brown oil. The residue was purified by preparative thin layer chromatography (chloroform-methanol) to give 1-(2,4-dichloro-3-chloromethylphenyl)-2-[4-(methylcarbamoyl)cinnamoylaminomethyl]pyrrole (120 mg) as an amorphous powder.

reactant | 1-(2,4-dichloro-3-hydroxymethylphenyl)-2-[4-(methylcarbamoyl)cinnamoylaminomethyl]pyrrole | 148 mg | ClC1=C(C=CC(=C1CO)Cl)N1C(=CC=C1)CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O | C23H21Cl2N3O3
reactant | triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethylformamide | 0.77 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-(2,4-dichloro-3-chloromethylphenyl)-2-[4-(methylcarbamoyl)cinnamoylaminomethyl]pyrrole | 120 mg | ClC1=C(C=CC(=C1CCl)Cl)N1C(=CC=C1)CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O | C23H20Cl3N3O2
